US08957064B2
Step 4: 4-[6-(2-fluorophenyl)-imidazo[1,2-a]pyrimidine-7-yl]-benzaldehyde
665 mg (2.68 mmol) 7-Chloro-6-(2-fluorophenyl)-imidazo[1,2-a]pyrimidine are given in 9.2 mL dimethoxyethane (not completely dissolved). 442.9 mg (2.95 mmol) 4-formylphenylboronic acid and 5.3 mL Na2CO3 solution (10%) are added. After addition of 98.6 mg (0.12 mmol) 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) the reaction mixture is purged 3× with argon and heated to 90° C. for 20 hours. The reaction mixture is cooled down and treated with 30 mL water and 150 mL dichloromethane. After vigorous stirring at rt for 90 minutes the organic phase is separated. The aqueous phase is extracted with dichloromethane (100 mL). The combined organic phases are washed with water (50 mL) and brine (50 mL) and dried (Na2SO4). The solvent is removed and the crude product purified via chromatography (silicagel, dichloromethane/methanol). 404.8 mg (47.5%) of the desired product (contaminated) are obtained.

reactant | 7-Chloro-6-(2-fluorophenyl)-imidazo[1,2-a]pyrimidine | 2.68 mmol, 665 mg | ClC1=NC=2N(C=C1C1=C(C=CC=C1)F)C=CN2 | C12H7ClFN3
reactant | 4-formylphenylboronic acid | 2.95 mmol, 442.9 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | Na2CO3 | 5.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 9.2 mL | C(OC)COC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) | 0.12 mmol, 98.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[6-(2-fluorophenyl)-imidazo[1,2-a]pyrimidine-7-yl]-benzaldehyde | 404.8 mg, 47.5% | FC1=C(C=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H12FN3O
